US09101616B2
Step-1: (R,E)-N-((6-(2-fluorobenzyloxy)pyridin-3-yl)methylene)-2-methylpropane-2-sulfinamide
To a suspension of sodium hydride (640 mg, 16 mmol, 60%) in DMF (20 mL) was added (2-fluorophenyl)methanol (1.9 g, 15 mmol) at 0° C. After being stirred at room temperature for 30 min, 6-chloronicotinonitrile (2.6 g, 19 mmol) was added to the mixture. The mixture was stirred at room temperature for 14 hours. The mixture was poured into saturated ammonium chloride aqueous solution, and the aqueous phase was extracted with ethyl acetate (twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (19:1 (v/v)) to give the intermediate. The intermediate was dissolved into dichloromethane (30 mL). DIBAL-H (6.3 mL, 6.4 mmol, 0.99 M) was added to the mixture at −78° C. After being stirred at −78° C. for 4 hours, methanol (2 mL) was added to the mixture. 1N hydrochloric acid (0.5 mL) was added to the mixture at room temperature. The mixture was stirred at room temperature for 1 hour. Sat. sodium bicarbonate aqueous solution was added to the mixture until the pH was neutrized. The organic layer was extracted with dichloromethane, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in dichloromethane (20 mL). Copper(II) sulfate (2.3 g, 14 mmol) followed by (R)-(+)-2-methyl-2-propanesulfinamide (700 mg, 5.8 mmol) were added to the mixture respectively and the mixture was stirred for 18 hours at room temperature. The reaction mixture was filtrated off through a pad of Celite and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (4:1 (v/v)) to give 155 mg (3% yield) of the title compound as a white solid:

reactant | sodium hydride | 16 mmol, 640 mg | [H-].[Na+]
reactant | (2-fluorophenyl)methanol | 15 mmol, 1.9 g | FC1=C(C=CC=C1)CO | C7H7FO
reactant | 6-chloronicotinonitrile | 19 mmol, 2.6 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DIBAL-H | 6.4 mmol, 0.99 M, 6.3 mL | CC(C)C[AlH]CC(C)C
reactant | hydrochloric acid | 1N, 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 5.8 mmol, 700 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Copper(II) sulfate | 14 mmol, 2.3 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | methanol | 2 mL | CO | CH4O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (R,E)-N-((6-(2-fluorobenzyloxy)pyridin-3-yl)methylene)-2-methylpropane-2-sulfinamide | 155 mg, 3% yield | FC1=C(COC2=CC=C(C=N2)\C=N\[S@](=O)C(C)(C)C)C=CC=C1 | C17H19FN2O2S
